US05629325
5-bromo-3-((1-methyl-2-(R)-pyrrolidinyl)methoxy)pyridine
(R)-1-methyl-2-pyrrolidinemethanol (430 mg, 13.74 mmol) was dissolved in 14 mL of DMF and stirred under N2, then 123.4 mg of NaH (80% dispersion in mineral oil) was added. The reaction mixture was stirred fifteen minutes, and 897.4 mg of 3,5-dibromomethylpyridine was added. The reaction mixture was stirred at 50° C. for 16 hours. The volatiles were removed under vacuum, and the residue was purified by chromatography on silica gel to give 484 mg of the title product. MS (DCI/NH3) m/z 271/273 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.37 (d, J=1.8, Hz, 1H), 8.26 (d, J=2.7 Hz, 1H), 7.39 (dd, J=1.8, 2.7 Hz, 1H), 4.01 (dd, J=3.3, 11.0 Hz, 1H), 3.93 (dd, J=6.9, 11.1, Hz, 1H), 3.20-3.10 (m, 1H), 3.93 (dd, J=6.9, 11.1 Hz, 1H), 3.20-3.10 (m, 1H), 2.76-2.64 (m, 1H), 2.49 (s, 3H), 2.40-2.28 (m, 1H), 2.44-2.00 (m, 4H).

reactant | (R)-1-methyl-2-pyrrolidinemethanol | 13.74 mmol, 430 mg | CN1[C@H](CCC1)CO | C6H13NO
reactant | NaH | 123.4 mg | [H-].[Na+]
reactant | 3,5-dibromomethylpyridine | 897.4 mg | BrCC=1C=NC=C(C1)CBr | C7H7Br2N
reactant | DMF | 14 mL | CN(C)C=O | C3H7NO
product | 5-bromo-3-((1-methyl-2-(R)-pyrrolidinyl)methoxy)pyridine | 484 mg | BrC=1C=C(C=NC1)OC[C@@H]1N(CCC1)C | C11H15BrN2O
